US07700786B2
Sulfuryl chloride (0.16 g, 1.2 mmol) was added to a solution of N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.35 g, 1.0 mmol) in acetic acid (5 ml), and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-ethyl-4-chloro-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.35 g, yield: 92.1%). mp: 111-112° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.23 (t, J=7.3 Hz, 3H), 2.66 (s, 3H), 3.41 (dq, J=5.8 and 7.3 Hz, 2H), 6.85-7.10 (m, 1H), 8.03 (d, J=2.0 Hz, 1H), 8.31 (m, 1H).

reactant | Sulfuryl chloride | 1.2 mmol, 0.16 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 1.0 mmol, 0.35 g | C(C)NC(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H12ClF3N4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-ethyl-4-chloro-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.35 g, yield: 92.1% | C(C)NC(=O)N1N=C(C(=C1C)Cl)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H11Cl2F3N4O2
